US09260420B2
To a solution of 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-quinolin-2-one (1 g) synthesized in the same manner as in WO2006/112464 (Example 11) in dichloromethane (30 ml) was added pyridine (0.37 ml), with stirring under ice-cooling, cyclohexanecarbonyl chloride (0.46 ml) was added and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=9:1) to give 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1-(cyclohexanecarbonyl)-3,4-dihydroquinolin-2(1H)-one (1.2 g).

reactant | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-quinolin-2-one | 1 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(NC1=C2)=O | C25H29N3O2S
reactant | pyridine | 0.37 ml | N1=CC=CC=C1 | C5H5N
reactant | cyclohexanecarbonyl chloride | 0.46 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | Water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1-(cyclohexanecarbonyl)-3,4-dihydroquinolin-2(1H)-one | 1.2 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)C(=O)C2CCCCC2)=O | C32H39N3O3S
